US08492378B2
2-methyl-5-[3-[4-[2-(methylsulfinyl)ethoxy]phenyl]-1-benzofuran-5-yl]-1,3,4-oxadiazole
To a mixture of 2-methyl-5-[3-[4-[2-(methylthio)ethoxy]phenyl]-1-benzofuran-5-yl]-1,3,4-oxadiazole (186 mg, 0.51 mmol), N,N-dimethylacetamide (2.5 mL) and acetonitrile (2.5 mL) was added m-chloroperbenzoic acid (122 mg, 0.51 mmol) at room temperature, and the resulting mixture was stirred for 2 hr. A saturated aqueous sodium thiosulfate solution was added to the reaction mixture, and the mixture was stirred for 30 min and extracted with ethyl acetate. The organic layer was washed with saturated aqueous sodium hydrogen carbonate solution and saturated brine, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was purified by basic silica gel column chromatography (hexane/ethyl acetate=10/1-0/1) and recrystallized from hexane/ethyl acetate to give the title compound (53.0 mg, yield 27%) as colorless crystals.

reactant | 2-methyl-5-[3-[4-[2-(methylthio)ethoxy]phenyl]-1-benzofuran-5-yl]-1,3,4-oxadiazole | 0.51 mmol, 186 mg | CC=1OC(=NN1)C=1C=CC2=C(C(=CO2)C2=CC=C(C=C2)OCCSC)C1 | C20H18N2O3S
reactant | N,N-dimethylacetamide | 2.5 mL | CN(C(C)=O)C | C4H9NO
reactant | m-chloroperbenzoic acid | 0.51 mmol, 122 mg | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | sodium thiosulfate | S(=S)(=O)([O-])[O-].[Na+].[Na+]
solvent | acetonitrile | 2.5 mL | C(C)#N | C2H3N
product | 2-methyl-5-[3-[4-[2-(methylsulfinyl)ethoxy]phenyl]-1-benzofuran-5-yl]-1,3,4-oxadiazole | 53.0 mg, yield 27% | CC=1OC(=NN1)C=1C=CC2=C(C(=CO2)C2=CC=C(C=C2)OCCS(=O)C)C1 | C20H18N2O4S
